US06756359B2
C12 ethyl, C9, C10, C11 enone, 3 oxo, C12 OCOIm macrolide of Example 11 (1 eq) was added to N1-[3,3′]Bipyridinyl-5-ylmethyl-N1-methyl-ethane-1,2-diamine (3 eq), acetonitrile, and water (10%). The reaction conditions are the same as described previously for (3aS,4R,7R,9R,10R,11S,13R,15R,15aR)-3a,4-diethyl-1-[4-(1H-imidazo[4,5-b]pyridin-1-yl)butyl]-11-methoxy-7,9,11,13,15-pentamethyl-2,6,8,14-tetraoxotetradecahydro-2H-oxacyclotetradecino[4,3-d][1,3]oxazol-10-yl 3,4,6-trideoxy-3-(dimethylamino)-D-xylo-hexopyranoside, yielding (3aS,4R,7R,9R,10R,11S,13R,15R,15aR)-1-{2-[(3,3′-bipyridin-5-ylmethyl)(methyl)amino]ethyl }-3a,4-diethyl-11-methoxy-7,9,11,13,15-pentamethyl-2,6,8,14-tetraoxotetradecahydro-2H-oxacyclotetradecino[4,3-d][1,3]oxazol-10-yl 3,4,6-trideoxy-3-(dimethylamino)-D-xylo-hexopyranoside (27% yield) as a white solid. MH+(852.50).

reactant | N1-[3,3′]Bipyridinyl-5-ylmethyl-N1-methyl-ethane-1,2-diamine | 3 eq | N1=CC(=CC(=C1)CN(CCN)C)C=1C=NC=CC1 | C14H18N4
reactant | acetonitrile | C(C)#N | C2H3N
reactant | (3aS,4R,7R,9R,10R,11S,13R,15R,15aR)-3a,4-diethyl-1-[4-(1H-imidazo[4,5-b]pyridin-1-yl)butyl]-11-methoxy-7,9,11,13,15-pentamethyl-2,6,8,14-tetraoxotetradecahydro-2H-oxacyclotetradecino[4,3-d][1,3]oxazol-10-yl 3,4,6-trideoxy-3-(dimethylamino)-D-xylo-hexopyranoside | CN([C@@H]1[C@H](C(O[C@H]2[C@@](C[C@H](C([C@@H]([C@H]3N(C(O[C@@]3([C@H](OC([C@@H](C([C@@H]2C)=O)C)=O)CC)CC)=O)CCCCN2C=NC3=NC=CC=C32)C)=O)C)(C)OC)O[C@@H](C1)C)O)C | C42H65N5O10
solvent | water | O | H2O
product | (3aS,4R,7R,9R,10R,11S,13R,15R,15aR)-1-{2-[(3,3′-bipyridin-5-ylmethyl)(methyl)amino]ethyl }-3a,4-diethyl-11-methoxy-7,9,11,13,15-pentamethyl-2,6,8,14-tetraoxotetradecahydro-2H-oxacyclotetradecino[4,3-d][1,3]oxazol-10-yl 3,4,6-trideoxy-3-(dimethylamino)-D-xylo-hexopyranoside | 27% yield | CN([C@@H]1[C@H](C(O[C@H]2[C@@](C[C@H](C([C@@H]([C@H]3N(C(O[C@@]3([C@H](OC([C@@H](C([C@@H]2C)=O)C)=O)CC)CC)=O)CCN(C)CC=2C=C(C=NC2)C=2C=NC=CC2)C)=O)C)(C)OC)O[C@@H](C1)C)O)C | C46H69N5O10
